US06340759B1
(287-3) 4-(4-Ethylpiperazin-1-yl)-6-[4-(2-hydroxypropoxy)phenyl]thieno[3,2-c]pyridin
4-(4-Ethylpiperazin-1-yl)-6-[4-(2-t-butyldiphenylsilyloxypropoxy)phenyl]thieno[3,2-c]pyridine of 3.38 g (5.31 mmol) was dissolved in THF of 20 ml and stirred at room temperature. To the mixture was added 1.0M tetrabutylammonium fluoride/THF solution of 10.6 ml (2.0 equivalents), and the mixture was stirred for 8 hr. The solvent was evaporated, and to the resulting residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed sequentially with water (three times) and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by NH-silica gel column chromatography (n-hexane/ethyl acetate system), to give the title compound as a colorless oil (1.65 g, yield; 78%).

reactant | 4-(4-Ethylpiperazin-1-yl)-6-[4-(2-t-butyldiphenylsilyloxypropoxy)phenyl]thieno[3,2-c]pyridine | C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)OCC(C)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C | C38H45N3O2SSi
reactant | tetrabutylammonium fluoride THF | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-Ethylpiperazin-1-yl)-6-[4-(2-hydroxypropoxy)phenyl]thieno[3,2-c]pyridin | 1.65 g, yield; 78% | C(C)N1CCN(CC1)C1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)OCC(C)O | C22H27N3O2S
